US07105671B2
A solution of 2(R)-(3,4-dichloro-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid (80 mg, 0.26 mmol), benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluoro-phosphate (177 mg, 0.40 mmol), and 2-aminothiazole (40 mg, 0.40 mmol) in methylene chloride (10 mL) at 25° C. was treated with triethylamine (0.11 mL, 0.79 mmol). The resulting reaction mixture was stirred at 25° C. for 16 h. The reaction mixture was then diluted with water (10 mL) and extracted with methylene chloride (3×10 mL). The combined organic layers were sequentially washed with water (1×10 mL), a 1N aqueous sodium hydroxide solution (1×10 mL), a 1N aqueous hydrochloric acid solution (1×10 mL), and a saturated sodium chloride solution (1×10 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 95/5 hexanes/ethyl acetate to 70/30 hexanes/ethyl acetate) afforded the 2(R)-(3,4-dichloro-phenyl)-3-(tetrahydro-pyran-2-yl)-N-thiazol-2-yl-propionamide (57 mg, 57%) as a white foam: EI-HRMS m/e calcd for C17H18Cl2N2O2S (M+) 384.066, found 384.1467.

reactant | 2(R)-(3,4-dichloro-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid | 0.26 mmol, 80 mg | ClC=1C=C(C=CC1Cl)[C@H](C(=O)O)CC1OCCCC1 | C14H16Cl2O3
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluoro-phosphate | 0.40 mmol, 177 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-aminothiazole | 0.40 mmol, 40 mg | NC=1SC=CN1 | C3H4N2S
reactant | triethylamine | 0.79 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 2(R)-(3,4-dichloro-phenyl)-3-(tetrahydro-pyran-2-yl)-N-thiazol-2-yl-propionamide | 57 mg, 57% | ClC=1C=C(C=CC1Cl)[C@H](C(=O)NC=1SC=CN1)CC1OCCCC1 | C17H18Cl2N2O2S
